US05128252
Optical resolution of ethyl 3-hydroxypentanate
The mixture of 1.9 g of ethyl R-(+)-3-butyryloxypentanate, 16 ml of 1,2-dichloroethane, 16 ml of ethanol and 0.3 ml of sulfuric acid was refluxed for 40 hours, water and ethyl acetate was added and the mixture was stirred. The separated organic layer was washed with a saturated aqueous solution of sodium bicarbonate and then with water, and dried on anhydrous magnesium sulfate. The solvent was distilled away, and 1.0 g crude product was obtained. The crude product was chromatographically purified, and 0.63 g of ethyl R-(-)-3-hydroxypentanate. [α]D24 =-29.7° (C=0.90, CHCl3). As described above, the optical purity of the obtained compound was tested by using Eu(hfc)3 as a shift agent. It was 88% ee. Moreover, the formulation of the above compounds was supported well by their NMR charts.

reactant | 1,2-dichloroethane | 16 ml | ClCCCl | C2H4Cl2
reactant | ethanol | 16 ml | C(C)O | C2H6O
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-hydroxypentanate | 1.0 g | OC(CC(=O)OCC)CC | C7H14O3
